US07687490B2
A 1.0 M diisobutylaluminum hydride/toluene solution (165 ml) was added dropwise to a solution of 25.05 g of 5-ethynyl-4-methoxycarbonylthiazole in 450 ml of toluene under an argon atmosphere at −40° C. The mixture was stirred at the same temperature for one hr. Thereafter, the reaction solution was poured into brine, and 200 ml of 1 N aqueous hydrochloric acid was added thereto. The insolubles were removed by filtration through Celite, and the filtrate was extracted four times with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, was filtered, and was concentrated under the reduced pressure. The residue was dissolved in 300 ml of ethanol and 150 ml of THF. Sodium borohydride (2.2 g) was added to the solution in an argon atmosphere, under ice cooling, and the mixture was stirred at room temperature for one hr. Brine was added to the reaction solution, the mixture was adjusted to pH 3 by the addition of 1 N aqueous hydrochloric acid, and the organic solvent was removed by distillation under the reduced pressure. The residue was extracted three times with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, was filtered, and was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:ethyl acetate=3:1 to 1:1) to give 19.25 g of 5-ethynyl-4-hydroxymethylthiazole.

reactant | diisobutylaluminum hydride toluene | 1.0 M, 165 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | 5-ethynyl-4-methoxycarbonylthiazole | 25.05 g | C(#C)C1=C(N=CS1)C(=O)OC | C7H5NO2S
reactant | hydrochloric acid | 1 N, 200 ml | Cl | ClH
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | 5-ethynyl-4-hydroxymethylthiazole | 19.25 g | C(#C)C1=C(N=CS1)CO | C6H5NOS
